US08748624B2
STEP B: Ethyl 3-(5-(3-chloro-2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate
2,6-Dichloro-4-(trifluoromethyl)benzaldehyde (3.2 g, 13.2 mmol), ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate (1.5 g, 4.4 mmol), Pd(dppf)Cl2 (320 mg, 0.4 mmol) and K3Pa4hydrate (3.0 g, 13.2 mmol) were dissolved in 1,4-dioxane (200 mL) and the resulting mixture was heated to 90° C. After 10 h the resulting mixture was diluted with water and extracted with EtOAc. The combined organic extracts were dried (Na2SO4), concentrated, and purified via column chromatography to yield the title compound.

reactant | 2,6-Dichloro-4-(trifluoromethyl)benzaldehyde | 13.2 mmol, 3.2 g | ClC1=C(C=O)C(=CC(=C1)C(F)(F)F)Cl | C8H3Cl2F3O
reactant | ethyl 3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)picolinamido)propanoate | 4.4 mmol, 1.5 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C | C17H25BN2O5
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(dppf)Cl2 | 0.4 mmol, 320 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl 3-(5-(3-chloro-2-formyl-5-(trifluoromethyl)phenyl)picolinamido)propanoate | ClC=1C(=C(C=C(C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C=O | C19H16ClF3N2O4
